### PR TITLE
[Merged by Bors] - feat(Topology/FiberBundle/Trivialization): local lifting through a Trivialization

### PR DESCRIPTION
**Pull request by vbeffara**
Define versions of local lifting through a `Trivialization`.

---

These are local building blocks for the proof of homotopy lifting for coverings, to be glued using the results in #17621.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/FiberBundle/Trivialization.lean [hunk 1]
```diff
@@ -742,4 +743,50 @@ noncomputable def disjointUnion (e e' : Trivialization F proj) (H : Disjoint e.b
...
+  refine ContinuousMap.curry <| T.liftCM.comp <| ⟨fun eγt => ⟨eγt.1.1, eγt.1.2 eγt.2⟩, ?_⟩
+  simpa using ⟨by fun_prop, ContinuousEval.continuous_eval.comp Ψ.continuous⟩
+
+@[simp]
+theorem clift_self (h : proj e.1 = γ i) :
+    T.clift (e, γ) i = e := by
+  have : proj e ∈ T.baseSet := by simp [h]
+  simp [clift, liftCM, ← h, lift_self, this]
+
+theorem proj_clift : proj (T.clift (e, γ) i) = γ i := by
```
Comment (jcommelin) [inline Mathlib/Topology/FiberBundle/Trivialization.lean:787]: Should this also be a simp lemma
```suggestion
@[simp]
theorem proj_clift : proj (T.clift (e, γ) i) = γ i := by
```

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Topology/FiberBundle/Trivialization.lean (hunk 1 above)
Comment (vbeffara) [reply Mathlib/Topology/FiberBundle/Trivialization.lean:788]: Ah, I thought so, but "Left-hand side has variable as head symbol: proj"
